US07842810B2
7-Fluoro-3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde
2,4-Difluoro-5-nitro-benzoic acid ethyl ester. To 2,4-difluoro-benzoic acid ethyl ester (6.4 g, 34 mmol) at 0° C. was added HNO3/H2SO4 (1:1, 10 mL). The resulting solution was allowed to warm to RT and was stirred for 18 h. The reaction mixture was partitioned between H2O and CH2Cl2 (400 mL). The organic layer was washed with brine (200 mL), dried (MgSO4), filtered and concentrated to provide 7.0 g (88%) of the title compound as a white solid. MS (ESI): exact mass calculated for C9H7F2NO4, 231.03; m/z not found. 1H NMR (400 MHz, CDCl3): 8.78 (dd, J=8.3, 7.3, 1H), 7.14 (t, J=9.9, 1H), 4.44 (q, J=7.2, 2H), 1.42 (t, J=7.2, 3H).

reactant | 2,4-Difluoro-5-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C(=C1)[N+](=O)[O-])F)F)=O | C9H7F2NO4
reactant | 2,4-difluoro-benzoic acid ethyl ester | 34 mmol, 6.4 g | C(C)OC(C1=C(C=C(C=C1)F)F)=O | C9H8F2O2
reactant | HNO3 H2SO4 | 10 mL | [N+](=O)(O)[O-].OS(=O)(=O)O
product | 7-Fluoro-3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carbaldehyde | 7.0 g, 88% | FC1=CC2=C(NC(CS2)=O)C=C1C=O | C9H6FNO2S
